US04405818
Organic compound mixtures enriched in meta-isopropylphenol are prepared by alkylating phenol with isopropanol or propylene to form mixtures of isopropylphenol isomers and by subsequently selectively cracking the para-isopropylphenol isomer from such a mixture over a ZSM-5 type cracking catalyst. Concentration of the para-isomer is thereby selectively reduced relative to the meta-isomer and the meta-isopropylphenol isomer can be further separated from the remaining mixture by fractionation procedures.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | propylene | C=CC | C3H6
solvent | meta-isopropylphenol | C(C)(C)C=1C=C(C=CC1)O | C9H12O
product | isopropylphenol | C(C)(C)C1=C(C=CC=C1)O | C9H12O
